US07582769B2
3-{2-[3-Cyclohexyl-3-(trans-4-isobutoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid
Prepared as described for the synthesis of {2-[3-cyclohexyl-3-(trans-4-isobutoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid using 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-acetic acid ethyl ester in the coupling step.

reactant | {2-[3-cyclohexyl-3-(trans-4-isobutoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)OCC(C)C | C22H35N3O4S2
reactant | 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-acetic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)N)=O | C8H12N2O2S2
product | 3-{2-[3-Cyclohexyl-3-(trans-4-isobutoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCCC(=O)O)=O)[C@@H]1CC[C@H](CC1)OCC(C)C | C23H37N3O4S2
